US06399629B1
(B) 1-(trans-4-Glycylamino-L-Prolyl)-4-(4-Chlorophenyl)piperazine Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (6 mL) was added to a solution of 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(4-chlorophenyl)piperazine (A, 210 mg) in 1,4-dioxane (6 mL) at room temperature. After stirring at room temperature for 50 min, the reaction mixture was evaporated in vacuo. The residue was washed with ether to give the titled compound (106 mg) as a white powder: 1H NMR (400 MHz, D2O) δ 2.48 (quintet, J=7.3 Hz, 1H), 2.64 (m, 1H), 3.48 (m, 5H), 3.81-3.98 (m, 5H), 3.87 (s, 2H), 4.61 (m, 1H), 5.08 (t, J=8.3 Hz, 1H), 7.32 (d, J=9.0 Hz, 2H), and 7.50 (d, J=9.0 Hz, 2H); mass spectrum (El+) m/e 365 (M).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | 1-[trans-4-(N-tert-butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-prolyl]-4-(4-chlorophenyl)piperazine | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C27H40ClN5O6
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 1-(trans-4-Glycylamino-L-Prolyl)-4-(4-Chlorophenyl)piperazine Dihydrochloride | 106 mg | Cl.Cl.NCC(=O)N[C@@H]1C[C@H](NC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | InChI=1S/C17H24ClN5O2.2ClH/c18-12-1-3-14(4-2-12)22-5-7-23(8-6-22)17(25)15-9-13(11-20-15)21-16(24)10-19;;/h1-4,13,15,20H,5-11,19H2,(H,21,24);2*1H/t13-,15+;;/m1../s1
